US06610518B2
Preparation of N-[6-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxyl}-5-(4-methylphenyl)-4-pyrimidinyl]-4-(2-hydroxy-1,1-dimethylethyl)benzenesulfonamide
Streptomyces rimosus subsp. rimosus ATCC10970 maintained on a quarter strength ATCC172 agar slope was inoculated as a loopful of spores into a 300 mm Erlenmeyer flask containing 50 mm of AS-7H inoculum medium. This was allowed to incubate for 2 days at 28° C., 200 rpm on an Infors Multitron™ Shaker with 1″ throw. 2 mls of this inoculum medium was then transferred to each of six 300 mm Erlenmeyer flask containing 50 mm of AP-5H production medium and incubated under the same conditions for a further 24 hours. At this point 5 mg of N-[6-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-5-(4-methylphenyl)-4-pyrimidinyl]-4-(tert-butyl)benzenesulfonamide (EP 0658548B1) dissolved in 0.5 mm of dimethylsulfoxide was added to each of the flasks and the fermentation allowed to continue under the same conditions for a further 3 hours. Each flask was then extracted with 200 mls of ethyl acetate and the combined ethyl acetate solubles concentrated to dryness to give a gum solid.

reactant | N-[6-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-5-(4-methylphenyl)-4-pyrimidinyl]-4-(tert-butyl)benzenesulfonamide | 5 mg | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C | C27H28BrN5O4S
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
product | N-[6-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxyl}-5-(4-methylphenyl)-4-pyrimidinyl]-4-(2-hydroxy-1,1-dimethylethyl)benzenesulfonamide | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(CO)(C)C)C1=CC=C(C=C1)C | C27H28BrN5O5S
